US05596104
A mixture of 3,4,6-trichlorophthalic acid (25.01 g, 92.8 mmol) and glacial acetic acid (100 mL) was charged to a 250 mL 3-neck flask, equipped with a dry-ice condenser, thermometer, gas sparger and magnetic stirrer and maintained under an atmosphere of dry nitrogen. The mixture was heated and maintained at 50°-54° C. while methylamine (12 g, 0.4 mol) was introduced over a period of 1.5 hours. Following the addition of the methylamine, the reaction mixture was heated to 93° C. and maintained thereat for about 5 hours, then cooled to room temperature and filtered. The filter cake was washed with cold water and vacuum dried (0.2 mmHg) for 24 hours to yield 15.97 g of 3,4,6-trichloro-N-methylphthalimide as a white powder (m.p. 166°-167.5° C.).

reactant | 3,4,6-trichlorophthalic acid | 92.8 mmol, 25.01 g | ClC1=C(C(C(=O)O)=C(C=C1Cl)Cl)C(=O)O | C8H3Cl3O4
reactant | methylamine | 0.4 mol, 12 g | CN | CH5N
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 3,4,6-trichloro-N-methylphthalimide | 15.97 g | ClC1=C2C(C(=O)N(C2=O)C)=C(C=C1Cl)Cl | C9H4Cl3NO2
